US07390908B2
Route 7: 2-[(3,5-dibenzyloxybenzoyl)amino]-5-aminopyridine
To a stirred solution of 2-[(3,5-dibenzyloxybenzoyl)amino]-5-nitropyridine (910 mg) in DMF (6 ml) was added Zinc dust (1300 mg) and a solution of ferric chloride hexahydrate (1700 mg) in water (6 ml). The resulting mixture was stirred at 120° C. for three hours. Allowed to cool to ambient temperature. The mixture was extracted with ethyl acetate. The extract was washed with water (50 ml), brine (50 ml), dried over MgSO4, then volatile material was removed by evaporation to leave a solid, which was dried under high vacuum for 24 hours at 100° C. to give the title compound (518 mg) as a solid, 1H NMR δ (d6-DMSO): 5.17 (m, 6H), 6.80 (s, 1H), 7.00 (d, 1H), 7.26 to 7.46 (m, 12H), 7.71 (s, 1H), 7.78 (d, 1H), 10.28 (br s, 1H). MS ES+426.52 (M+H)+.

reactant | 2-[(3,5-dibenzyloxybenzoyl)amino]-5-nitropyridine | 910 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C=C2)[N+](=O)[O-])C=C(C1)OCC1=CC=CC=C1 | C26H21N3O5
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | water | 6 ml | O | H2O
catalyst | Zinc | 1300 mg | [Zn] | Zn
product | 2-[(3,5-dibenzyloxybenzoyl)amino]-5-aminopyridine | 518 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C=C2)N)C=C(C1)OCC1=CC=CC=C1 | C26H23N3O3
